US04409226
Heat 75 gm of 3-benzyloxy-2-phthalimidomethylpyridine under reflux for one hour in 550 ml of a 40% aqueous dimethylamine solution. Cool the resulting reaction mixture to room temperature, then dilute it with 550 ml water and extract with dichloromethane. Wash the dichloromethane extract with brine and dry over anhydrous sodium sulfate. Filter the dried reaction mixture and remove the solvent dichloromethane from the filtrate under reduced pressure, yielding 2-aminomethyl-3-phenylmethoxypyridine, BP 145°-155°/0.5 mm.

reactant | 3-benzyloxy-2-phthalimidomethylpyridine | 75 gm | C(C1=CC=CC=C1)OC=1C(=NC=CC1)CN1C(C=2C(C1=O)=CC=CC2)=O | C21H16N2O3
reactant | dimethylamine | CNC | C2H7N
solvent | water | 550 ml | O | H2O
product | 2-aminomethyl-3-phenylmethoxypyridine | NCC1=NC=CC=C1OCC1=CC=CC=C1 | C13H14N2O
